US06359145B1
To an ice cooled solution of 1-hydroxy-4-(p-tolyl)butan-2-one in DMF (5 ml) was added imidazole (264 mg, 3.88 mmol) followed by tert-butyldimethylsilyl chloride (234 mg, 1.55 mmol). After 30 minutes the ice-bath was removed and then the mixture was stirred overnight at room temperature. The reaction mixture was poured into water (50 ml) and extracted with ethyl acetate. The organic layer was washed with brine, dried (magnesium sulfate), and concentrated in vacuo. The residue was purified by silica gel (8 g) column chromatography eluting with hexane/ethyl acetate (50:1) to give 1-(tert-butyldimethylsilyloxy)-4-(4-methylphenyl)butan-2-one (350 mg, 67.9%) as a colorless oil.

reactant | 1-hydroxy-4-(p-tolyl)butan-2-one | OCC(CCC1=CC=C(C=C1)C)=O | C11H14O2
reactant | imidazole | 3.88 mmol, 264 mg | N1C=NC=C1 | C3H4N2
reactant | tert-butyldimethylsilyl chloride | 1.55 mmol, 234 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 1-(tert-butyldimethylsilyloxy)-4-(4-methylphenyl)butan-2-one | 350 mg, 67.9% | [Si](C)(C)(C(C)(C)C)OCC(CCC1=CC=C(C=C1)C)=O | C17H28O2Si
